US06949577B2
Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(1H-imidazol-2-yl)-2-propenoate
A mixture of methyl 2-{[(benzyloxy)carbonyl]amino}-3-(dimethoxyphosphoryl)-propanoate (1 g, 30 mmol) in tetrahydrofuran (7 ml) was stirred at −40° C. and tetramethylguanidine (380 mg, 33 mmol) was added. The reaction mixture was stirred at −40° C. for 20 minutes and then imidazole-2-carboxaldehyde (317 mg, 33 mmol) was added. The reaction was then allowed to warm to room temperature and was stirred at room temperature for 18 h. The solvent was then removed by evaporation under reduced pressure and the residue dissolved in ethyl acetate and washed with water and then brine. The organic phase was then dried (MgSO4), filtered, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a solvent gradient of ethyl acetate:pentane (30:70 to 80:20), to give the title compound, 366 mg, 40% yield.

reactant | methyl 2-{[(benzyloxy)carbonyl]amino}-3-(dimethoxyphosphoryl)-propanoate | 30 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)CP(=O)(OC)OC | C14H20NO7P
reactant | tetramethylguanidine | 33 mmol, 380 mg | CN(C(N(C)C)=N)C | C5H13N3
reactant | imidazole-2-carboxaldehyde | 33 mmol, 317 mg | N1C(=NC=C1)C=O | C4H4N2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(1H-imidazol-2-yl)-2-propenoate | 40% yield | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C=1NC=CN1 | C15H15N3O4
